US07550456B2
1-[1-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4, 1-[1-(3′,4′-dichloro-111′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[2-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate. MS (ESI) m/z 433 ([M+H]+); HRMS: calcd for C24H30Cl2N2O.2.00 HCl, 504.1269; found (ESI), 433.1793.

reactant | tert-butyl 4-[2-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C29H38Cl2N2O3
reactant | HCl | Cl | ClH
product | 1-[1-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C24H30Cl2N2O.2ClH/c25-22-9-8-20(16-23(22)26)18-4-6-19(7-5-18)21(17-28-14-12-27-13-15-28)24(29)10-2-1-3-11-24;;/h4-9,16,21,27,29H,1-3,10-15,17H2;2*1H
